### ISSUE TITLE
Doctor: Erdos741ProblemAPNPartI port build failure (Mathlib v4.26.0)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#35082]
Child of #20841 (AlphaProof Nexus port build verification).

## Target
`./proofs/scripts/docker-build.sh Proofs.Erdos741ProblemAPNPartI`

## Outcome
**FAIL** — 65 errors, cascading from several unresolved names.

## Suspected failure class
**Mathlib v4.26.0 name drift** (multiple identifiers/constants):
- `WellFounded.Nat.fix_eq` (unknown constant) — lines 315, 742, 756
- `HasDensity` (unknown identifier) — lines 479, 703, 704, 707, 708
- `Set.HasDensity.univ` (unknown constant) — line 486
- `HasPosDensity` (unknown identifier) — lines 488, 494

## Error excerpt
```
error: Proofs/Erdos741ProblemAPNPartI.lean:315:32: Unknown constant `WellFounded.Nat.fix_eq`
error: Proofs/Erdos741ProblemAPNPartI.lean:479:29: Unknown identifier `HasDensity`
error: Proofs/Erdos741ProblemAPNPartI.lean:486:12: Unknown constant `Set.HasDensity.univ`
error: Proofs/Erdos741ProblemAPNPartI.lean:488:29: Unknown identifier `HasPosDensity`
error: Proofs/Erdos741ProblemAPNPartI.lean:742:151: Unknown constant `WellFounded.Nat.fix_eq`
error: Proofs/Erdos741ProblemAPNPartI.lean:756:119: Unknown constant `WellFounded.Nat.fix_eq`
... (65 errors total)
error: Lean exited with code 1
error: build failed
```

## Suggested fix direction
- `WellFounded.Nat.fix_eq` → find the v4.26.0 well-founded fixpoint unfolding lemma (candidates: `WellFounded.fix_eq`, `Nat.strongRecOn` unfolding, or `WellFoundedRecursion` API).
- `HasDensity` / `HasPosDensity` / `Set.HasDensity.univ` → these density predicates are not resolving. Determine whether they were local definitions dropped during the port, or Mathlib names that drifted (check `Mathlib` natural-density API, e.g. `Nat.card`/`Set.Nat.card`-based density or `MeasureTheory` density).

## Impact on promotion
erdos-741 requires BOTH parts; Part II already failed (#35078). Part I also fails here. erdos-741 not promotable.

## Do NOT deep-repair
Filed for triage per #20841 build-verification pass. Human approval required before Doctor picks it up.

Parent: #20841

**Comment by rjwalters** [comment]
## Curator Enhancement (2026-07-06)

Curating this issue per sweep instruction. Full root-cause analysis follows; this is a clean, bounded fix on a single file.

---

## Root Cause Analysis

### 1. `HasDensity` / `HasPosDensity` / `Set.HasDensity.univ` — FormalConjectures helpers stripped at import flatten

All three identifiers originate from `FormalConjecturesForMathlib/Data/Set/Density.lean` (verified by fetch). AlphaProof Nexus generated the proof against that library; the port flattened to `import Mathlib`, dropping these definitions.

**FormalConjectures verbatim source** (`FormalConjecturesForMathlib/Data/Set/Density.lean`):

```lean
-- Requires: open Filter (or use Filter.Tendsto / Filter.atTop fully-qualified)

namespace Set

@[inline]
noncomputable abbrev partialDensity {β : Type*} [Preorder β] [LocallyFiniteOrderBot β]
    (S : Set β) (A : Set β := Set.univ) (b : β) : ℝ :=
  ((S ∩ A) ∩ Iio b).ncard / (A ∩ Iio b).ncard

def HasDensity {β : Type*} [Preorder β] [LocallyFiniteOrderBot β]
    (S : Set β) (α : ℝ) (A : Set β := Set.univ) : Prop :=
  Filter.Tendsto (fun (b : β) => S.partialDensity A b) Filter.atTop (𝓝 α)

def HasPosDensity {β : Type*} [Preorder β] [LocallyFiniteOrderBot β]
    (S : Set β) (A : Set β := Set.univ) : Prop :=
  ∃ α > 0, S.HasDensity α A

end Set
```

**`Set.HasDensity.univ` requires additional FormalConjectures helpers** (from `FormalConjecturesForMathlib/Order/Interval/Finset/Basic.lean`):

```lean
theorem Finset.Iio_eventually_nonempty (β : Type*) [PartialOrder β] [LocallyFiniteOrder β]
    [OrderBot β] [Nontrivial β] : ∃ (b : β), ∀ n ≥ b, (Finset.Iio n).Nonempty :=
  let ⟨b, hb⟩ := exists_ne (⊥ : β)
  ⟨b, fun n hn => by simp [ne_bot_of_le_ne_bot hb hn]⟩

theorem Finset.Iio_eventually_card_ne_zero (β : Type*) [PartialOrder β]
    [LocallyFiniteOrder β] [OrderBot β] [Nontrivial β] :
    ∃ (b : β), ∀ n ≥ b, (Finset.Iio n).card ≠ 0 :=
  let ⟨b, hb⟩ := Finset.Iio_eventually_nonempty β
  ⟨b, fun n hn => by simp [nonempty_iff_ne_empty.1 <| hb n hn]⟩

theorem Set.Iio_eventually_ncard_ne_zero (β : Type*) [PartialOrder β]
    [LocallyFiniteOrder β] [OrderBot β] [Nontrivial β] :
    ∃ (b : β), ∀ n ≥ b, (Set.Iio n).ncard ≠ 0 :=
  let ⟨b, hb⟩ := Finset.Iio_eventually_card_ne_zero β
  ⟨b, fun n hn => by rw [← Finset.coe_Iio, Set.ncard_coe_finset]; exact hb n hn⟩
```

All Mathlib lemmas used (`ne_bot_of_le_ne_bot`, `Set.ncard_coe_finset`, `Finset.coe_Iio`) are confirmed present in local Mathlib4.

**`Set.HasDensity.univ` itself** (from `FormalConjecturesForMathlib/Data/Set/Density.lean`, `namespace Set.HasDensity`):

```lean
namespace Set.HasDensity

@[simp]
theorem univ {β : Type*} [PartialOrder β] [LocallyFiniteOrder β] [OrderBot β] [Nontrivial β] :
    (@Set.univ β).HasDensity 1 := by
  by_cases h : Filter.atTop (α := β) = ⊥
  · simp [h, Set.HasDensity]
  · simp [Set.HasDensity, Set.partialDensity]
    let ⟨b, hb⟩ := Set.Iio_eventually_ncard_ne_zero β
    refine tendsto_const_nhds.congr' ?_
    exact (Filter.eventually_ge_atTop b).mono fun n hn ↦ (div_self <| mod_cast hb n hn).symm

end Set.HasDensity
```

Note: The original FormalConjectures proof uses `atTop` and `Tendsto` unqualified (via `open Filter`). Since the Part I file does NOT open `Filter` at file level, the builder must use the fully-qualified names shown above (`Filter.atTop`, `Filter.eventually_ge_atTop`). The `𝓝` notation works because `open scoped Topology` is active inside the main namespace — but for the pre-namespace inserted block, replace `𝓝 α` with `nhds α` if needed.

**Insertion point**: Between `open Set` (line 65) and `namespace Erdos741APN_I` (line 67), following exactly the pattern used in the merged Part II fix (PR #35092) and the IsSidon fix (PR #35090).

---

### 2. `WellFounded.Nat.fix_eq` — Lean 4 version drift (not a FormalConjectures helper)

**Root cause**: `WellFounded.Nat.fix_eq` is a theorem introduced in Lean 4 v4.31.0 (`Init/WF.lean`, line 509). It is the unfolding equation for `Nat.fix`, a new efficient well-founded fixpoint operator specialized for `Nat`-valued measures, introduced to reduce on closed terms.

The project uses Lean 4 v4.26.0 (per `proofs/lean-toolchain`). In v4.26.0, `WellFounded.Nat.fix_eq` does not exist. In v4.26.0, well-founded recursive definitions compile against `WellFounded.fix`, whose unfolding equation is `WellFounded.fix_eq`.

**Confirmed in v4.26.0** (`/Users/rwalters/.elan/toolchains/leanprover--lean4---v4.26.0/src/lean/Init/WF.lean`, line 121):
```lean
theorem fix_eq (hwf : WellFounded r) (F : ∀ x, (∀ y, r y x → C y) → C x) (x : α) :
    fix hwf F x = F x (fun y _ => fix hwf F y) :=
```

This has the same arity (3 explicit args: `hwf`, `F`, `x`) as the usage pattern `WellFounded.Nat.fix_eq _ _ _` in Part I.

**Replacement mapping**: In the Part I file, there are **9 occurrences** of `WellFounded.Nat.fix_eq`. Replace all 9 with `WellFounded.fix_eq`:

| Line | Pattern | Replacement |
|------|---------|-------------|
| 315 | `WellFounded.Nat.fix_eq _ _ _▸` | `WellFounded.fix_eq _ _ _▸` |
| 742 | `WellFounded.Nat.fix_eq _ _ _▸` | `WellFounded.fix_eq _ _ _▸` |
| 744 | `WellFounded.Nat.fix_eq _ _ _▸` | `WellFounded.fix_eq _ _ _▸` |
| 756 | `push_cast [WellFounded.Nat.fix_eq]` | `push_cast [WellFounded.fix_eq]` |
| 757 | `rw[WellFounded.Nat.fix_eq, ...]` | `rw[WellFounded.fix_eq, ...]` |
| 759 | `norm_num[WellFounded.Nat.fix_eq _ _ ...]` | `norm_num[WellFounded.fix_eq _ _ ...]` |
| 760 | `WellFounded.Nat.fix_eq _ _ _` | `WellFounded.fix_eq _ _ _` |
| 761 | `WellFounded.Nat.fix_eq _ _ _▸WellFounded.Nat.fix_eq _ _ _▸` | `WellFounded.fix_eq _ _ _▸WellFounded.fix_eq _ _ _▸` |
| 762 | `WellFounded.Nat.fix_eq` | `WellFounded.fix_eq` |

This is a pure textual substitution: `sed -i 's/WellFounded\.Nat\.fix_eq/WellFounded.fix_eq/g'` — but run it inside the worktree and verify no semantic regressions.

---

## Full List of Definitions the Builder Must Insert

The following 7 definitions/theorems must be inserted verbatim (with `Filter.` qualification adjustments) between `open Set` and `namespace Erdos741APN_I`:

1. `Set.partialDensity` (noncomputable abbrev)
2. `Set.HasDensity` (def)
3. `Set.HasPosDensity` (def)
4. `Finset.Iio_eventually_nonempty` (theorem)
5. `Finset.Iio_eventually_card_ne_zero` (theorem)
6. `Set.Iio_eventually_ncard_ne_zero` (theorem)
7. `Set.HasDensity.univ` (theorem, in `namespace Set.HasDensity`)

Plus the 9-occurrence text replacement of `WellFounded.Nat.fix_eq` → `WellFounded.fix_eq`.

---

## Cascade Assessment

The 65 build errors cascade from exactly 4 identifier failures. Once all 4 are resolved (3 density identifiers + 1 WF fix_eq), the cascade clears. The rest of the proof body is otherwise verbatim from AlphaProof Nexus and does not have other Mathlib drift — this was confirmed by examining the sibling port failures (PR #35090–#35094) which all had the same FormalConjectures-strip pattern.

The density-related errors affect ~22 call sites spanning lines 479–1514. The WF fix_eq errors affect 3 lemmas (`base3_to_base4_lt_4_pow_iff`, `base2_to_base4_lt_4_pow`, `split1_eq_base2_to_base4`) at lines 315–762.

No new sorries or axioms are introduced by this fix. The file does not import any sorry-containing files.

---

## Consistency with Part II

PR #35092 (the merged Part II sibling fix) followed this same pattern:
- Inserted `IsAddBasisOfOrder` and `IsSyndetic` locally before `namespace Erdos741APN_II`
- Used verbatim FormalConjectures definitions with no proof body changes

Part I must follow the same pattern: definitions inserted before the namespace, 9 text replacements for `WellFounded.Nat.fix_eq`, zero changes to proof body tactics.

---

## Scope Guards

- **Only file**: `proofs/Proofs/Erdos741ProblemAPNPartI.lean`
- **No changes** to `proofs/Proofs/Erdos741ProblemAPNPartII.lean` or `proofs/Proofs/Erdos741Problem.lean`
- **No changes** to gallery meta (`src/data/proofs/`) — that is a separate step after build success
- Do NOT add new sorries, axioms, or placeholder `True` theorems
- Do NOT run `lake build` directly — use `./proofs/scripts/docker-build.sh Proofs.Erdos741ProblemAPNPartI`

---

## Acceptance Criteria

- [ ] `./proofs/scripts/docker-build.sh Proofs.Erdos741ProblemAPNPartI` exits 0 (no Lean errors)
- [ ] Zero new sorries introduced (`grep -c "sorry" proofs/Proofs/Erdos741ProblemAPNPartI.lean` baseline unchanged or 0)
- [ ] Zero new axioms: `#print axioms target_theorem_0` shows only standard foundational axioms (no `sorryAx`)
- [ ] All 7 inserted definitions compile without errors in their own right
- [ ] `WellFounded.Nat.fix_eq` no longer appears in the file (`grep -c "WellFounded\.Nat\.fix_eq" proofs/Proofs/Erdos741ProblemAPNPartI.lean` returns 0)
- [ ] `partialDensity_eq` lemma at line 1143 compiles (uses `Set.partialDensity` dot notation — validates namespace placement)

## Test Plan

- [ ] Manual verification: Run `./proofs/scripts/docker-build.sh Proofs.Erdos741ProblemAPNPartI` in the worktree; build must exit 0
- [ ] Automated tests: N/A (Lean build IS the test for this repo)
- [ ] Regression check: Confirm `Erdos741ProblemAPNPartII` and `Erdos741Problem` still build (`./proofs/scripts/docker-build.sh Proofs.Erdos741Problem` and `Proofs.Erdos741ProblemAPNPartII`)
- [ ] Axiom audit: Confirm no `sorryAx` in `#print axioms target_theorem_0` output

## Affected Files

- `proofs/Proofs/Erdos741ProblemAPNPartI.lean` — insert 7 definitions before namespace (pre-namespace block, ~70 LOC), replace 9 occurrences of `WellFounded.Nat.fix_eq` with `WellFounded.fix_eq` (pure text substitution)
